US04138389
To a stirred suspension of sodium hydride (2 g.) in dry dimethyl formamide (20 ml.) was added dropwise a solution of 4-chloromethyl-2, 6-di-tert-butylphenol (10 g.) in dimethyl formamide (40 ml.) at 25°-30° C. The mixture was stirred for 30 minutes, during which gas evolution ceased, so as to produce a solution of sodium 4-chloromethyl-2, 6-di-tert-butylphenoxide.

reactant | sodium hydride | 2 g | [H-].[Na+]
reactant | 4-chloromethyl-2, 6-di-tert-butylphenol | 10 g | ClCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H23ClO
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
product | sodium 4-chloromethyl-2, 6-di-tert-butylphenoxide | ClCC1=CC(=C([O-])C(=C1)C(C)(C)C)C(C)(C)C.[Na+] | InChI=1S/C15H23ClO.Na/c1-14(2,3)11-7-10(9-16)8-12(13(11)17)15(4,5)6;/h7-8,17H,9H2,1-6H3;/q;+1/p-1
